US07786132B2
A stirred solution of 4-(5-bromo-2-(methylthio)pyrimidine-6-carboxamido)pyridin-3-yl diethylcarbamodithioate (1.99 g, 4.21 mmol) in 96% formic acid (40 mL) was heated to reflux for 4 h. After cooling to r.t. the reaction mixture was poured into ice/water (400 mL), then basified with 5 N aqueous sodium hydroxide and extracted with ethyl acetate (3×150 mL). The organic layers were combined, dried over sodium sulfate, filtered and the solvent evaporated in vacuo to yield 2-(5-bromo-2-(methylthio)pyrimidin-4-yl)thiazolo[5,4-c]pyridine (1.34 g, 94%) as a yellow amorphous solid. 1H NMR: δ (CDCl3, 400 MHz) 2.67 (s, 3H), 8.09 (d, J=5.5 Hz, 1H), 8.74 (d, J=5.5 Hz, 1H), 8.86 (s, 1H), 9.34 (s, 1H).

reactant | 4-(5-bromo-2-(methylthio)pyrimidine-6-carboxamido)pyridin-3-yl diethylcarbamodithioate | 4.21 mmol, 1.99 g | C(C)N(C(=S)SC=1C=NC=CC1NC(=O)C1=C(C=NC(=N1)SC)Br)CC | C16H18BrN5OS3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | formic acid | 40 mL | C(=O)O | CH2O2
product | 2-(5-bromo-2-(methylthio)pyrimidin-4-yl)thiazolo[5,4-c]pyridine | 1.34 g, 94% | BrC=1C(=NC(=NC1)SC)C=1SC=2C=NC=CC2N1 | C11H7BrN4S2
